US06599925B2
1-[2-(5-Bromo-6-hydroxy-2-naphthyl)-1-benzofuran-3-yl]-3,3-dimethyl-1-butanone
Following the procedure described in Step 4 of Example 1, 1-[2-(6-hydroxy-2-naphthyl)-1-benzofuran-3-yl]-3,3-dimethyl-1-butanone (0.378 g, 1.05 mmol) was brominated using, bromine (0.08 mL, 1.6 mmol), and potassium acetate (1.02 g, 10.4 mmol), in glacial acetic acid (17 mL). Purification by flash chromatography (Biotage apparatus) using 15-20% chloroform in hexane as an eluant furnished the title compound as a dark brown gum (0.203 g). 1HNMR (300 MHz, DMSO-d6): δ10.95 (s, 1H), 8.35 (s, 1H), 8.2 (d, 1H, J=8.3 Hz), 8.0 (d, 1H, J=8.3 Hz), 7.95 (t, 2H, J=8.3 Hz), 7.85 (d, 1H, J=8.3 Hz), 7.35-7.55 (m, 3H), 2.65 (s, 2H), and 0.85 ppm (s, 9H).

reactant | 1-[2-(6-hydroxy-2-naphthyl)-1-benzofuran-3-yl]-3,3-dimethyl-1-butanone | 1.05 mmol, 0.378 g | OC=1C=C2C=CC(=CC2=CC1)C=1OC2=C(C1C(CC(C)(C)C)=O)C=CC=C2 | C24H22O3
reactant | bromine | 1.6 mmol, 0.08 mL | BrBr | Br2
reactant | potassium acetate | 10.4 mmol, 1.02 g | C(C)(=O)[O-].[K+]
solvent | acetic acid | 17 mL | C(C)(=O)O | C2H4O2
product | 1-[2-(5-Bromo-6-hydroxy-2-naphthyl)-1-benzofuran-3-yl]-3,3-dimethyl-1-butanone | 0.203 g | BrC1=C2C=CC(=CC2=CC=C1O)C=1OC2=C(C1C(CC(C)(C)C)=O)C=CC=C2 | C24H21BrO3
